US07868036B2
a) cis-(4-Dimethylamino-cyclohexyl)-methyl-propionic acid methyl ester
A solution of 0.354 g of trans-2-methyl-2-[4-(toluene-4-sulfonyloxy)-cyclohexyl]-propionic acid methyl ester in 10 ml of 60% aqueous dimethylamine solution is heated to 110° C. for 48 hours. The reactions mixture is cooled to room temperature and extracted with dichloromethane (3×). The combined extracts are dried over sodium sulphate and concentrated. Flash chromatography (SiO2 60F) of the residue provides the title compound which is identified on the basis of its Rf-value.

reactant | trans-2-methyl-2-[4-(toluene-4-sulfonyloxy)-cyclohexyl]-propionic acid methyl ester | 0.354 g | COC(C(C)([C@@H]1CC[C@H](CC1)OS(=O)(=O)C1=CC=C(C=C1)C)C)=O | C18H26O5S
reactant | dimethylamine | 10 ml | CNC | C2H7N
product | cis-(4-Dimethylamino-cyclohexyl)-methyl-propionic acid methyl ester | COC(C(C)(C)[C@@H]1CC[C@@H](CC1)N(C)C)=O | C13H25NO2
